US06239131B1
Preparation of 1-(2-toluoylmethyl)-2-oxo-3-amino-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine
1-(2-Toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine (0.28 g) was dissolved in 4N HCl-dioxane (5 ml), the solution was stirred for one hour at 60° C. The reaction mixture was concentrated under reduced pressure, the residue was neutralized with saturated aqueous sodium bicarbonate, and extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, the solvent was evaporated under reduced pressure, to thereby obtain 0.22 g of the titled compound (Yield: 100%).

reactant | 1-(2-Toluoylmethyl)-2-oxo-3-tert-butoxycarbonylamino-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 0.28 g | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C2CCCCC2)NC(=O)OC(C)(C)C)=O)C | C30H39N3O4
solvent | HCl dioxane | 4N, 5 ml | Cl.O1CCOCC1
product | 1-(2-toluoylmethyl)-2-oxo-3-amino-5-cyclohexyl-8-methyl-1,3,4,5-tetrahydro-2H-1,5-benzodiazepine | 0.22 g, Yield: 100% | C=1(C(=CC=CC1)C(=O)CN1C(C(CN(C2=C1C=C(C=C2)C)C2CCCCC2)N)=O)C | C25H31N3O2
